US08859580B2
2,2,2-Trifluoro-1-[(6R,10S)-5,6,7,8,9,10-hexahydro-2,10,12,12-tetramethyl-6,10-methano-1H-imidazo[5,4-i][3]benzazocin-7-yl]-ethanone
(2R,6S)-1-(8,9-Diamino-6,11,11-trimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]-azocin-3-yl)-2,2,2-trifluoro-ethanone (600 mg) dissolved in glacial acetic acid is stirred at 130° C. for 3 h. After cooling to ambient temperature, the solution is concentrated under reduced pressure and the residue is taken up in ethyl acetate. The organic solution is washed with aqueous K2CO3 solution and brine and dried (MgSO4). The solvent is removed under reduced pressure to give the crude title compound as a foam-like solid.

reactant | (2R,6S)-1-(8,9-Diamino-6,11,11-trimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]-azocin-3-yl)-2,2,2-trifluoro-ethanone | 600 mg | NC1=CC2=C(C[C@H]3N(CC[C@@]2(C3(C)C)C)C(C(F)(F)F)=O)C=C1N | C17H22F3N3O
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 2,2,2-Trifluoro-1-[(6R,10S)-5,6,7,8,9,10-hexahydro-2,10,12,12-tetramethyl-6,10-methano-1H-imidazo[5,4-i][3]benzazocin-7-yl]-ethanone | FC(C(=O)N1[C@@H]2CC3=C([C@](CC1)(C2(C)C)C)C=C2C(=C3)N=C(N2)C)(F)F | C19H22F3N3O
